2164-01-02 10:57:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2164-1-1**] 08:03 AM
 NUCLEAR MEDICINE - At [**2164-1-1**] 04:30 PM
   returned to floor 18:40--Bleeding scan without source of bleeding found
 EKG - At [**2164-1-1**] 07:27 PM
   -HCT stabilized with 3 units PRBC
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Gluten
   Unknown; Pt has
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Last dose of Antibiotics:
   Gancyclovir - [**2164-1-1**] 12:00 PM
   Ciprofloxacin - [**2164-1-2**] 01:19 AM
   Vancomycin - [**2164-1-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2164-1-2**] 12:10 AM
   Pantoprazole (Protonix) - [**2164-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2164-1-2**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 101 (101 - 130) bpm
   BP: 128/64(0) {120/52(0) - 161/82(97)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,155 mL
                                                                  1,590 mL
   PO:
             TF:
   IVF:
                                                                  1,690 mL
                                                                    505 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  2,750 mL
                                                                  1,950 mL
   Urine:
                                                                  2,600 mL
                                                                  1,750 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    405 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   414 K/uL
   236 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   143 mEq/L
   32.2 %
   16.2 K/uL
        [image002.jpg]
                            [**2164-1-1**]  08:52 AM
                            [**2164-1-1**]  01:59 PM
                            [**2164-1-1**]  03:15 PM
                            [**2164-1-1**]  04:30 PM
                            [**2164-1-1**]  09:10 PM
                            [**2164-1-2**]  01:21 AM
                            [**2164-1-2**]  04:58 AM
   WBC
   16.7
   16.2
   Hct
   21.3
   28.9
   30.6
   29.6
   32.5
   32.2
   Plt
   358
   414
   Cr
   0.9
   0.9
   Glucose
   109
   326
   236
   Other labs: PT / PTT / INR:13.0/26.0/1.1, ALT / AST:22/20, Alk Phos / T
   Bili:123/0.9, Differential-Neuts:85.2 %, Lymph:8.4 %, Mono:6.0 %,
   Eos:0.3 %, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Imaging: Bleeding Scan--no bleeding
   CXR-No pulmonary infiltrates, PICC in good position.
   Microbiology: CMV-Negative
   Assessment and Plan
   85 yo male with history of celiac disease and now with recent findings
   of ulcerations in colon has had onset of brisk GI bleed leading to
   transfer to ICU for further care.  We did pursue obtaining adequate IV
   access and then tagged RBC scan which failed to show source of bleeding
   and this in the setting of stabilization of HCT does suggest that acute
   and brisk bleeding has stopped but given production of maroon stool
   this morning ongoing bleeding is of concern.  This is, of course,
   clinical improvement in stability but does make identification of
   source of bleeding more challenging at this time.  With GI, IR and
   surgery all involved will move to coordinated plan of watchful waiting
   iwth continuation of current treatment plan.
   1)GI Bleed-As above
   -Endoscopy this afternoon
   -PPI in place
   -Will continue to follow HCT q 8 hours today
   -GCV in place and will continue despite negative testing findings to
   date
   2)MRSA Bacteremia-
   -Continue with ABX
   3)UTI-Enterobacter
   -Continue with ABX
   4)Celiac Disease-
   -TPN
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition: NPO for now
TPN in the setting of Celiac Disease
   Glycemic Control:
   Lines:
   PICC Line - [**2164-1-1**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2164-01-03 11:05:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2164-1-2**] 12:42 PM
 STOOL CULTURE - At [**2164-1-2**] 12:42 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Gluten
   Unknown; Pt has
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Diarrhea;
   Last dose of Antibiotics:
   Gancyclovir - [**2164-1-3**] 12:53 AM
   Vancomycin - [**2164-1-3**] 08:00 AM
   Ciprofloxacin - [**2164-1-3**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-1-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2164-1-3**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 84 (80 - 119) bpm
   BP: 128/58(0) {123/52(0) - 148/76(0)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,057 mL
                                                                  1,667 mL
   PO:
                                                                    150 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,140 mL
                                                                    608 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                  1,200 mL
   Urine:
                                                                  2,750 mL
                                                                  1,050 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    107 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   445 K/uL
   197 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   28 mg/dL
   111 mEq/L
   144 mEq/L
   32.0 %
   12.6 K/uL
        [image002.jpg]
                            [**2164-1-1**]  08:52 AM
                            [**2164-1-1**]  01:59 PM
                            [**2164-1-1**]  03:15 PM
                            [**2164-1-1**]  04:30 PM
                            [**2164-1-1**]  09:10 PM
                            [**2164-1-2**]  01:21 AM
                            [**2164-1-2**]  04:58 AM
                            [**2164-1-2**]  12:02 PM
                            [**2164-1-2**]  07:09 PM
                             [**2164-1-3**]  03:32 AM
   WBC
   16.7
   16.2
   12.6
   Hct
   21.3
   28.9
   30.6
   29.6
   32.5
   32.2
   32.9
   30.0
   32.0
   Plt
   358
   414
   445
   Cr
   0.9
   0.9
   0.9
   Glucose
   109
   326
   236
   197
   Other labs: PT / PTT / INR:13.1/25.6/1.1, ALT / AST:22/20, Alk Phos / T
   Bili:123/0.9, Differential-Neuts:85.2 %, Lymph:8.4 %, Mono:6.0 %,
   Eos:0.3 %, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: AG-10
   Assessment and Plan
   85 yo male with significant celiac disease and ulcerating lesions noted
   in the colon we have patient admitted with GI bleed concerning for
   lower source.  Importantly bleeding appears to have slowed
   substantially and we have seen an increasing difficulty in capacity to
   identify source.  We have coordinated plan with GI and surgery and IR
   and will currently continue to monitor HCT and consider flexible
   sigmoidostomy vs. bleeding scan for any recurrent evidence of bleeing.
   We will have to consider treatment for CMV as reasonable across time
   given concern for contribution to ulcerating lesions.
   1) GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)-
   -Flex sig deferred with stable HCT
   -GCV to be continued x 21 days
   -HCT [**Hospital1 **]
   -Monitor BM's for evidence of blood.
   -PPI to continue
   -With stability will have to consider transfer to floor following TEE
   today
   2)UTI-
   -Cipro day [**5-10**]
   3)MRSA Bacteremia-
   -TEE today to evaluate for vegitations
   -Continue Vancomycin
   ICU Care
   Nutrition: PO diet to advance as limited by celiac
continue with TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2164-1-1**] 08:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes